US07982071B2
Addition of acetonitrile to 3-((tetrahydro-2H-pyran-2-yl) methoxy)benzaldehyde gave 3-hydroxy-3-(3-((tetrahydro-2H-pyran-2-yl)methoxy)phenyl)propanenitrile as a yellow oil. Yield (1.1 g, 66%): 1H NMR (400 MHz, CDCl3) δ 7.26-7.31 (m, 1H), 6.93-6.99 (m, 2H), 6.87-6.92 (m, 1H), 4.97-5.03 (m, 1H), 3.68-4.01 (m, 4H), 3.47-3.55 (m, 1H), 2.75 (d, J=6.4, 2H), 1.90-1.93 (m, 1H), 1.43-1.71 (m, 5H).

reactant | 3-((tetrahydro-2H-pyran-2-yl) methoxy)benzaldehyde | O1C(CCCC1)COC=1C=C(C=O)C=CC1 | C13H16O3
reactant | acetonitrile | C(C)#N | C2H3N
product | 3-hydroxy-3-(3-((tetrahydro-2H-pyran-2-yl)methoxy)phenyl)propanenitrile | OC(CC#N)C1=CC(=CC=C1)OCC1OCCCC1 | C15H19NO3
